US05998470
a) N-tert-butoxycarbonyl-L-leucine methyl ester
To a stirring suspension of L-leucine methyl ester hydrochloride (Aldrich) (6.00 g, 33.0 mmol) and di-tert-butyl dicarbonate (7.21 g, 33.0 mmol) in THF (35 mL) was added triethylamine (3.34 g, 33.0 mmol, 4.60 mL). The mixture was allowed to stir at room temperature for 3 d. The mixture was diluted with ethyl acetate and washed with 1 N HCl (2 times), water, and saturated brine, then dried over magnesium sulfate, filtered and concentrated to give the title compound as a colorless oil (8.02 g, 99%). 1H NMR (400 MHz, CDCl3)δ4.88 (d, 1H), 4.33-4.31 (m, 1H), 7.73 (s, 3H), 1.75-1.48 (m, 3H), 1.44 (s, 9H), 0.96 (d, 3H), 0.93 (d, 3H).

reactant | L-leucine methyl ester hydrochloride | 33.0 mmol, 6.00 g | Cl.COC([C@@H](N)CC(C)C)=O
reactant | di-tert-butyl dicarbonate | 33.0 mmol, 7.21 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 33.0 mmol, 4.60 mL, 3.34 g | C(C)N(CC)CC | C6H15N
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-tert-butoxycarbonyl-L-leucine methyl ester | 8.02 g, 99% | COC([C@@H](NC(=O)OC(C)(C)C)CC(C)C)=O | C12H23NO4
